US04514416
Synthesis of 4-amidino-3-methylphenyl benzoate
The above carbonate was suspended in methanol and admixed with 60 mg of methanesulfonic acid. Upon addition of ethyl ether, there were obtained 160 mg of a white powder of 4-amidino-3-methylphenyl benzoate methanesulfonate.

reactant | carbonate | C([O-])([O-])=O
reactant | methanesulfonic acid | 60 mg | CS(=O)(=O)O | CH4O3S
reactant | ethyl ether | C(C)OCC | C4H10O
reactant | 4-amidino-3-methylphenyl benzoate methanesulfonate | CS(=O)(=O)O.C(C1=CC=CC=C1)(=O)OC1=CC(=C(C=C1)C(N)=N)C
solvent | methanol | CO | CH4O
product | 4-amidino-3-methylphenyl benzoate | 160 mg | C(C1=CC=CC=C1)(=O)OC1=CC(=C(C=C1)C(N)=N)C | C15H14N2O2
